US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.413 g, 0.770 mmol) and 2.0 M ethylamine in THF (10 mL, 20 mmol) in THF (10 mL) was stirred at 80° C. in a sealed tube for 16.5 hours. After cooling to ambient temperature, the reaction mixture was solvent evaporated. The residue was partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered, concentrated and dried at 80° C. in vacuo for 20 minutes to give ethyl-{2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine as a dark yellow solid (0.292 g, 92.7%). This was dissolved in chloroform and methanol, and ethereal hydrochloride was added. The mixture was concentrated and dried for 25 hours at 83° C. in vacuo to give the hydrochloride as a beige solid (0.227 g) MP 276-7° C.dec.; Mass Spectrum (+EI, [M+H]+) m/z 410. 1HNMR (500 MHz, DMSO-d6): δ8.95 (s, br, 2H), 8.75 (d, 1H, J=8.79 Hz), 8.52 (dd, 1H, J=7.45 Hz and 1.22 Hz), 8.27 (d, 1H, J=8.30 Hz), 8.04 (d, 1H, J=7.57 Hz), 7.71-7.75 (m, 2H), 7.56-7.66 (m, 2H), 7.36 (d, 1H, J=2.07 Hz), 7.22 (dd, 1H, J=9.15 Hz and 2.31 Hz), 4.30-4.33 (m, 2H), 4.05 (s, 3H), 3.33-3.34 (m, 2H), 2.99-3.05 (m, 2H), 1.19-1.23 ppm (m, 3H). Elemental Analysis for C22H23N3O3S.1.00 mol HCl.0.40 mol H2O: Calcd: C, 58.31; H, 5.52; N, 9.27; Found: C, 58.62; H, 5.54; N, 9.11.

reactant | toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.770 mmol, 0.413 g | CN1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H24N2O6S2
reactant | ethylamine | 2.0 M | C(C)N | C2H7N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 10 mL | C1CCOC1 | C4H8O
product | ethyl-{2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine | 0.292 g, 92.7% | C(C)NCCOC=1C=C2C(=NN(C2=CC1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C22H23N3O3S
